US04306097
3-[2-Acetoxy-4-(1,1-dimethylheptyl)phenyl]-cyclohexanone
A solution of 2.0 g of 3-[2-hydroxy-4-(1,1-dimethylheptyl)phenyl]cyclohexanone in 15 ml of pyridine is treated at 10° C. with 10 ml acetic anhydride and the mixture stirred for 18 hours under nitrogen. It is then poured onto ice/water and acidified with dilute hydrochloric acid. The acidified mixture is extracted with ethyl acetate (2×100 ml), the extracts combined, washed with brine and dried (MgSO4). Evaporation under reduced pressure give the title product as an oil.

reactant | 3-[2-hydroxy-4-(1,1-dimethylheptyl)phenyl]cyclohexanone | 2.0 g | OC1=C(C=CC(=C1)C(CCCCCC)(C)C)C1CC(CCC1)=O | C21H32O2
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 3-[2-Acetoxy-4-(1,1-dimethylheptyl)phenyl]-cyclohexanone | C(C)(=O)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)C1CC(CCC1)=O | C23H34O3
